US05159061
(II) Production of Boc-Phe-βAla-OH.CHA
3.0 g Boc-Phe-βAla-OBzl was reduced in 50 ml MeOH in the presence of Pd-black as a catalyst, and this was followed by concentration; the resulting residue was dissolved in 30 ml AcOEt, after which it was crystallized with 0.80 ml CHA and collected by filtration.

reactant | Boc-Phe-βAla-OBzl | 3.0 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C24H30N2O5
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | Boc-Phe-βAla-OH | N([C@@H](CC1=CC=CC=C1)C(=O)NCCC(=O)O)C(=O)OC(C)(C)C | C17H24N2O5
